US08536185B2
Preparation of phenyl(5-(2-(pyridin-3-yl)-1H-imidazol-5-yl)pyrimidin-2-yl)methanone
The title compound is prepared by the method described in Example 1, except that (5-bromopyrimidin-2-yl)(phenyl)methanone (prepared according to the procedure described in WO 2008/121670 p. 94) is used instead of 5-bromo-2-phenylpyrimidine and 3-(1-benzyl-1H-imidazol-2-yl)pyridine is used instead of 1-benzyl-2-phenyl-1H-imidazole in Step C.

reactant | (5-bromopyrimidin-2-yl)(phenyl)methanone | BrC=1C=NC(=NC1)C(=O)C1=CC=CC=C1 | C11H7BrN2O
reactant | 5-bromo-2-phenylpyrimidine | BrC=1C=NC(=NC1)C1=CC=CC=C1 | C10H7BrN2
reactant | 3-(1-benzyl-1H-imidazol-2-yl)pyridine | C(C1=CC=CC=C1)N1C(=NC=C1)C=1C=NC=CC1 | C15H13N3
product | phenyl(5-(2-(pyridin-3-yl)-1H-imidazol-5-yl)pyrimidin-2-yl)methanone | C1(=CC=CC=C1)C(=O)C1=NC=C(C=N1)C1=CN=C(N1)C=1C=NC=CC1 | C19H13N5O
